US07777047B2
N-[2-(benzylthio)-3,3-dimethoxy-2-methylpropyl]-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid (1.62 g), 1H-1,2,3-benzotriazol-1-ol (919 mg), 2-(benzylthio)-3,3-dimethoxy-2-methylpropan-1-amine (1.02 g) and N,N-dimethylformamide (30 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.53 g) at room temperature, and the mixture was added overnight at room temperature, and concentrated under reduced pressure. The residue was diluted with ethyl acetate and water. The organic layer was washed with saturated brine, dried over sodium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography to give the title compound (1.96 g, yield 76%) as a colorless amorphous solid from a fraction eluted with ethyl acetate-hexane (4:1).

reactant | 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid | 1.62 g | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)O | C18H19N3O6S
reactant | 1H-1,2,3-benzotriazol-1-ol | 919 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | 2-(benzylthio)-3,3-dimethoxy-2-methylpropan-1-amine | 1.02 g | C(C1=CC=CC=C1)SC(CN)(C(OC)OC)C | C13H21NO2S
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.53 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-[2-(benzylthio)-3,3-dimethoxy-2-methylpropyl]-5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.96 g, yield 76% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)(C(OC)OC)C | C31H38N4O7S2
